US07390809B2
Step C: [7-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazin-8-yl](cyclopropyl)methanol
A 160 mg portion of [2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazin-8-yl](cyclopropyl)methanol hydrochloride was coupled to (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid essentially following the procedure outlined in Example 2, Step D. Purification by preparative TCL (silica gel, 10% methanol/dichloromethane) gave 176 mg of the product as a mixture of diastereomers. HPLC (OD chiralcel column, 6% ethanol/hexane) separated the first and last eluting diastereomers. The middle fractions containing two diastereomers were further subjected to HPLC (OD chiralcel column, 3% ethanol/hexane) to provide the second and the third eluting diastereomers.

reactant | [2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazin-8-yl](cyclopropyl)methanol hydrochloride | Cl.FC(C1=NN2C(C(NCC2)C(O)C2CC2)=N1)(F)F
reactant | (3R)-3-[(tert-butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C15H18F3NO4
product | [7-[(3R)-3-[(tert-Butoxycarbonyl)amino]-4-(2,4,5-trifluorophenyl)butanoyl]-2-(trifluoromethyl)-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-α]pyrazin-8-yl](cyclopropyl)methanol | 176 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)N1C(C=2N(CC1)N=C(N2)C(F)(F)F)C(O)C2CC2)CC2=C(C=C(C(=C2)F)F)F | C25H29F6N5O4
